US08383652B2
172 μL (1 mmol) of heptyl isocyanate are added to 214 mg (0.7 mmol) of ethyl 2-[1-(3′-methylaminobiphenyl-4-yl)meth-(E)-ylidene]butyrate. The reaction mixture is heated at 100° C. in an Emrys Optimizer microwave oven for 20 minutes. The residue is purified by chromatography on a column of silica eluted with a 70/30 heptane/ethyl acetate mixture. 306 mg (98%) of ethyl 2-[1-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate are obtained in the form of yellowish crystals.

reactant | heptyl isocyanate | 1 mmol, 172 μL | C(CCCCCC)N=C=O | C8H15NO
reactant | ethyl 2-[1-(3′-methylaminobiphenyl-4-yl)meth-(E)-ylidene]butyrate | 0.7 mmol, 214 mg | CNC=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CC | C20H23NO2
product | ethyl 2-[1-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate | 306 mg, 98% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CC)=O | C28H38N2O3
